US08629270B2
[(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
To a stirred clear colorless solution of [(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine (255 mg, 722 μmol) and diethyl ether (10 mL) is added a solution of 1 M HCl in diethyl ether (794 μL, 794 μmol). The resulting white mixture is stirred for a few minutes and the resulting solid collected and rinsed with diethyl ether (10 mL), to give the title compound (274 mg, 97%) as a white solid. ES/MS (m/e): 354.0 (M+H).

reactant | (4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 722 μmol, 255 mg | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC(=CC1)F | C14H13F2N5S2
reactant | HCl | 1 M | Cl | ClH
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 794 μmol, 794 μL | C(C)OCC | C4H10O
product | (4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | 274 mg, 97% | Cl.FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC(=CC1)F | InChI=1S/C14H13F2N5S2.ClH/c15-9-3-18-13(19-4-9)21-5-8-6-22-12(17)20-14(8,7-21)10-1-2-11(16)23-10;/h1-4,8H,5-7H2,(H2,17,20);1H/t8-,14-;/m0./s1
